US04476131
dl-7-Hydroxy-6-(3-oxopentyl)-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido[1,2-a]quinoline
A solution of 5.0 g. (0.02 mole) chromic anhydride in 5.0 ml. water is added with stirring and ice cooling to 50 ml. pyridine. To this is added at 10° C., 4.93 g. (0.01 mole) dl-7-acetoxy-6-(3-hydroxypentyl)-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido-[1,2-a]quinoline (prepared from dl-7-hydroxy-6-(3-hydroxypentyl-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido[1,2-a]quinoline by the procedure of Example 62, Part A) and the resulting mixture is stirred at ambient temperature for three hours. The mixture is then poured into water, made alkaline with sodium hydroxide and extracted with methylene chloride. The combined extracts are washed with water, brine, dried (MgSO4) and the solvent evaporated in vacuo. The residue is purified by silica gel chromatography.

reactant | 7-acetoxy-6-(3-hydroxypentyl)-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido-[1,2-a]quinoline | C(C)(=O)OC1=C2C(CC3N(C2=CC(=C1)OC(C)CCCC1=CC=CC=C1)CCCC3)CCC(CC)O | C31H43NO4
reactant | 3-hydroxypentyl-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido[1,2-a]quinoline | OC(CCC1CCCC2N1C1=CC(=CC=C1CC2)OC(C)CCCC2=CC=CC=C2)CC | C29H41NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 7-Hydroxy-6-(3-oxopentyl)-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido[1,2-a]quinoline | OC1=C2C(CC3N(C2=CC(=C1)OC(C)CCCC1=CC=CC=C1)CCCC3)CCC(CC)=O | C29H39NO3
